US06943267B1
1-Iodopropane and benzyl chloride were commercial products. 6-Bromohexanoic acid tert-butyl ester was synthesized by passing isobutylene through solution of 6-bromohexanoic acid in dichlomethane in presence of concentrated sulfuric acid (See, Lecher, H. Z., Greenwood, R. A., Whitehouse, K. C. and Chao, T. H. “The Phosphonation of Aromatic Compounds with Phosphorus Pentasulfide.” J. Am. Chem. Soc. 78, (1956) 5018-5022.) and used directly without purification in the next step of the synthetic process. Dimethyl thiophosphite was produced by refluxing dimethyl phosphite (Sigma-Aldrich, St. Louis, Mo.) with Lawesson's reagent in benzene. (Snatzke, G. and Kunde, K. “Perhydrodibenz[a.j]anthracen-14-one, I. Synthese 2-substituierter Dibenz[a.j]anthracen-Derivate.” Chem. Ber. 106, (1973) 1341-1362) 7-Methylnaphthalene-1-carboxylic acid was prepared by acetylation of 2-methylnaphthalene to 1-(7-methyl-naphthalen-1-yl)-ethanone followed by oxidation with bromine. (See, Hilgetag, G. and Teichmann, H. “Uber einige Methylierungsreactionen der beiden isomeren Trimethylthiophosphate.” J. Prakt. Chem. 8, (1959) 90-96.)

reactant | dimethyl phosphite | P(OC)(OC)[O-]
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2-methylnaphthalene | CC1=CC2=CC=CC=C2C=C1 | C11H10
reactant | 1-(7-methyl-naphthalen-1-yl)-ethanone | CC1=CC=C2C=CC=C(C2=C1)C(C)=O | C13H12O
reactant | bromine | BrBr | Br2
reactant | Trimethylthiophosphate | COP(=S)(OC)OC | C3H9O3PS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-Methylnaphthalene-1-carboxylic acid | CC1=CC=C2C=CC=C(C2=C1)C(=O)O | C12H10O2
